US08048894B2
Method 1. Preparation of Ethyl 7,8-difluoro-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxylate
Methyl 2-(3-ethoxy-N-methyl-3-oxopropanamido)-3,4-difluorobenzoate. At 0° C., a suspension of methyl 3,4-difluoro-2-(methylamino)benzoate (1.10 g, 5.47 mmol) and potassium carbonate (0.98 g, 7.1 mmol) in THF (10 mL) was treated dropwise with ethyl 3-chloro-3-oxopropanoate (0.90 mL, 7.11 mmol). The mixture was warmed to 24° C., stirred for 3 hours, diluted with water, and extracted with EtOAc. The combined organic layers were dried over MgSO4, and evaporated. Purification by flash chromatography (EtOAc/hexanes) gave the title compound. MS (ESI) m/z: Calculated; 315.3: Observed; 316.1. 1H.NMR (300 MHz, CDCl3) δ ppm 7.81-7.91 (1H, m), 7.28-7.37 (1H, m), 4.12 (2H, q, J=7.1 Hz), 3.92 (3H, s), 3.23 (3H, s), 3.10 (2H, s), 1.23 (3H, t, J=7.2 Hz).

reactant | Methyl 2-(3-ethoxy-N-methyl-3-oxopropanamido)-3,4-difluorobenzoate | C(C)OC(CC(=O)N(C)C1=C(C(=O)OC)C=CC(=C1F)F)=O | C14H15F2NO5
reactant | methyl 3,4-difluoro-2-(methylamino)benzoate | 5.47 mmol, 1.10 g | FC=1C(=C(C(=O)OC)C=CC1F)NC | C9H9F2NO2
reactant | potassium carbonate | 7.1 mmol, 0.98 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 3-chloro-3-oxopropanoate | 7.11 mmol, 0.90 mL | ClC(CC(=O)OCC)=O | C5H7ClO3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | Ethyl 7,8-difluoro-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxylate | FC1=CC=C2C(=C(C(N(C2=C1F)C)=O)C(=O)OCC)O | C13H11F2NO4
